US04582833
4-(5,7-Dipropyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-1-piperazinecarboxylic acid, ethyl ester
A mixture of 4.48 g (0.02 moles) of 4-(5-amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxylic acid, ethyl ester, 3.12 g (0.02 moles) of 4,6-nonanedione and 50 ml of glacial acetic acid was refluxed for 12 hours. The resulting solution was evaporated to dryness in vacuo. The residue was partitioned and treated as described in Example 12 and gave 6.77 g of the desired product as colorless crystals, mp 130°-132° C.

reactant | 4-(5-amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxylic acid, ethyl ester | 0.02 moles, 4.48 g | NC=1NC(=NN1)N1CCN(CC1)C(=O)OCC | C9H16N6O2
reactant | 4,6-nonanedione | 0.02 moles, 3.12 g | CCCC(CC(CCC)=O)=O | C9H16O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(5,7-Dipropyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)-1-piperazinecarboxylic acid, ethyl ester | 6.77 g | C(CC)C1=NC=2N(C(=C1)CCC)N=C(N2)N2CCN(CC2)C(=O)OCC | C18H28N6O2
